US06855716B2
Synthesis of ethyl [6-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-4-methyl-2-oxo-3,6-dihydro-2H-pyrimidine-1-yl]acetate
109 mg (0.309 mmol) of 4-(3-chlorophenyl)-3-ethoxycarbonylmethyl-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid and 97.9 mg (0.463 mmol) of 3,3-diphenylpropylamine were dissolved in 20 ml of dichloromethane. 88.8 mg (0.463 mmol) of WSC hydrochloride was added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. After the concentration under reduced pressure, the reaction mixture was diluted with ethyl acetate and then washed with 1 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was washed with hexane/ethyl acetate (1/1) and then dried under reduced pressure to obtain the title compound.

reactant | 4-(3-chlorophenyl)-3-ethoxycarbonylmethyl-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | 0.309 mmol, 109 mg | ClC=1C=C(C=CC1)C1N(C(NC(=C1C(=O)O)C)=O)CC(=O)OCC | C16H17ClN2O5
reactant | 3,3-diphenylpropylamine | 0.463 mmol, 97.9 mg | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | WSC hydrochloride | 0.463 mmol, 88.8 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl [6-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-4-methyl-2-oxo-3,6-dihydro-2H-pyrimidine-1-yl]acetate | ClC=1C=C(C=CC1)C1C(=C(NC(N1CC(=O)OCC)=O)C)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C31H32ClN3O4
